US04064134
A. Ethyl 3-(3-Nitro-2-pyridyl)carbazate Hydrochloride
A 24 g (0.15 mole) portion of 2-chloro-3-nitropyridine in 153 ml of phenol at 45°-50° was treated portionwise with 20.5 g (0.20 mole) of ethyl carbazate, keeping the temperature below 60°, using rapid mechanical stirring. The reaction mixture was heated on a steam bath for 5 hr, cooled to 45 -55°, and poured into 750 ml of anhydrous ether, using rapid hand stirring. A light orange solid was collected, washing with 400 ml of anhydrous ether, m.p. 142°-152° dec. Yield: 34 g (85%).

reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | ethyl carbazate | 0.20 mole, 20.5 g | C(NN)(=O)OCC | C3H8N2O2
reactant | ether | 750 ml | CCOCC | C4H10O
solvent | phenol | 153 ml | C1(=CC=CC=C1)O | C6H6O
product | Ethyl 3-(3-Nitro-2-pyridyl)carbazate Hydrochloride | Cl.[N+](=O)([O-])C=1C(=NC=CC1)NNC(=O)OCC | InChI=1S/C8H10N4O4.ClH/c1-2-16-8(13)11-10-7-6(12(14)15)4-3-5-9-7;/h3-5H,2H2,1H3,(H,9,10)(H,11,13);1H
